data/pmechdb/original/mc_train_fold0/raw/train.txt
CCCCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COC3CCCCC3)O>>CCCCCC1=CC=C[N:21]=C1.C1CCC(CC1)OCC2C(C[CH:20]=[O+:10]2)O 10=20;20,21=21
[H:20][O:21]S(=O)C.[OH2:10]>>[H:20][OH2+:10].CS(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C1CCC2(CC1(CCC3C2CC3(C)C)OC)C.CCOC(=O)[N-:10]N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][N:10](C(=O)OCC)N(C(=O)OCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC1(CC2C1CCC3(CC2(CCC3[O-:21])C)OC)C 10=20;20,21=21
CCCC[Sn:20](CCCC)(CCCC)[O+](CC)CC.[F-:10]>>CCCC[Sn-:20](CCCC)(CCCC)([O+](CC)CC)[F:10] 10=20,
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]CC2=CC=C(C=C2)[N+](=O)[O-].C1=CC=C(C=C1)[NH2:10]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC=C(C=C1)[NH2+:10][CH2:20]CC2=CC=C(C=C2)[N+](=O)[O-] 10=20;20,21=21
C[C:20](=[OH+:21])OC.C[SH:10]>>C[C:20]([OH:21])(OC)[SH+:10]C 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.C1=CC=[C:10](C=C1)[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1.C(=O)(C(F)(F)F)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
COC1CC(=[O+:11][Si-:10](C)(C)(C)F)CCC1(C(=O)OC)NC(=O)C2=CC=CC=C2.[OH-].[Na+]>>COC1CC(=[O:11])CCC1(C(=O)OC)NC(=O)C2=CC=CC=C2.C[Si:10](C)(C)F.[OH-].[Na+] 10,11=11
[H:20][CH:21]1[C:22](=[N+:23]2CCCC2)CC3=C1C=CC=C3.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1CC[N:23](C1)[C:22]2=[CH:21]C3=C(C2)C=CC=C3.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([C:22](=[O:23])OC(=N1)C)C(C2=CC=CC=C2)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC1=N[C:21](=[C:22](O1)[O-:23])C(C2=CC=CC=C2)O 10=20;22,23=23;20,21=21,22
COC(=O)[C:20](=[O:21])C1=CC=CC=C1.C1=CC=C(C=C1)[C:11](=[CH:10]Br)[O-:12].C(=[OH+])(O[K])O[K]>>COC(=O)[C:20](C1=CC=CC=C1)([CH:10]([C:11](=[O:12])C2=CC=CC=C2)Br)[O-:21].C(=[OH+])(O[K])O[K] 10,11=10,20;20,21=21;12=11
CCCCCC1CC(C(C1C(=C[O-:10])C)[CH:20]=[N+:21](C)C2=CC=CC=C2)C.C[NH2+]C1=CC=CC=C1.O>>CCCCCC1CC(C2C1C(=C[O:10][CH:20]2[N:21](C)C3=CC=CC=C3)C)C.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
[Li:20]CCCC.C1CC[O:10]C1>>[Li-:20](CCCC)[O+:10]1CCCC1 10=20,
[H:20][O:21]S(=O)(=O)O.CCN(CC)C(C)[O-:10]>>[H:20][O:10]C(C)N(CC)CC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=C(C=C2C=C1)S(=O)(=O)O.[Br:20][Br:21]>>C1=CC2=CC(=CC=C2[CH:10]([CH+:11]1)[Br:20])S(=O)(=O)O.[Br-:21] 10,11=10,20;20,21=21
CN(C)[C:11]1=[CH:10]C=C(C=C1Br)Br.[Br:20][Br:21]>>CN(C)[C+:11]1[CH:10](C=C(C=C1Br)Br)[Br:20].[Br-:21] 10,11=10,20;20,21=21
C1CC(N(C1)C(=O)C2=CC=C[NH:10]2)[CH:20]=[O:21].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>C1CC2[CH:20]([NH+:10]3C=CC=C3C(=O)N2C1)[O-:21].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;20,21=21
[H:20][NH+:21](CC1CC1)[N:22]=[O:23].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC1C[NH+:21]=[N:22][O-:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C(=O)C.C1CC2C([NH+]3C=CC=C3C(=O)N2C1)[O-:10].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>[H:20][O:10]C1C2CCCN2C(=O)C3=CC=C[NH+]13.CC(=O)[O-:21].CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;20,21=21
CC[O+:21]=[C:20]=CC(C(C)(C)C[O-:10])O>>CC[O:21][C:20]1=CC(C(C[O:10]1)(C)C)O 10=20;20,21=21
CCO[C:11](=[CH2:10])[O-:12].C[C:20](=[O:21])OC>>CCO[C:11](=[O:12])[CH2:10][C:20](C)([O-:21])OC 10,11=10,20;20,21=21;12=11
[H:20][C:21](C(CC(C)CC)N1CCCCC1)([C:22](=[OH+:23])C)C(=O)OCC.C1CC[NH:10]CC1.CC(=O)[O-].O>>[H:20][NH+:10]1CCCCC1.CCC(C)CC([C:21](=[C:22](C)[OH:23])C(=O)OCC)N1CCCCC1.CC(=O)[O-].O 10=20;22,23=23;20,21=21,22
CC[N-:10]C.[AlH3:20]>>CC[N:10](C)[AlH3-:20] 10=20,
C1C[C:20](CCC1N2C=C(C=N2)I)([OH:10])[OH+:21]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O>>C(CO)[OH:21].C1C[C:20](=[OH+:10])CCC1N2C=C(C=N2)I.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O 10=20;20,21=21
[H:20][OH+:21]CC=CNC.[OH2:10]>>[H:20][OH2+:10].CNC=CC[OH:21] 10=20;20,21=21
CC(C)OC1=C2C=CC(=C(C2=CC(=C1)[CH:20]=[OH+:21])OC)Br.C1=CC(=CC(=C1)Cl)C(=O)O[O-:10]>>CC(C)OC1=C2C=CC(=C(C2=CC(=C1)[CH:20]([OH:21])[O:10]OC(=O)C3=CC(=CC=C3)Cl)OC)Br 10=20;20,21=21
CN(C)[C:20](=[O:21])OCC[O-:10]>>CN(C)[C:20]1(OCC[O:10]1)[O-:21] 10=20;20,21=21
[B-]([O+:21]1[CH2:20]C1COS(=O)(=O)C)(F)(F)F.CC#[N:10]>>[B-]([O:21]C([CH2:20][N+:10]#CC)COS(=O)(=O)C)(F)(F)F 10=20;20,21=21
C[S:21][S:20]CCC[S-:10]>>C1C[S:10][S:20]C1.C[S-:21] 10=20;20,21=21
CC([C:20](=[O:21])Cl)NC(=O)OCC1C2=C(C=CC=C2)C3=CC=CC=C13.COC(=O)C(CC1=CNC2=CC=CC=C21)NC(=O)C3=C(C=CC=C3)[NH2:10].C(=O)([O-])O[Na].O.[Na+]>>CC([C:20]([NH2+:10]C1=C(C=CC=C1)C(=O)NC(CC2=CNC3=CC=CC=C32)C(=O)OC)([O-:21])Cl)NC(=O)OCC4C5=C(C=CC=C5)C6=CC=CC=C46.C(=O)([O-])O[Na].O.[Na+] 10=20;20,21=21
CCO[C:22](=[O:23])[CH:21]=[CH2:20].C1CN2CC[N:10]1CC2.COC1=C(C=CC=C1)C=O.C1=CC=C(C=C1)C=O>>CCO[C:22](=[CH:21][CH2:20][N+:10]12CCN(CC1)CC2)[O-:23].COC1=C(C=CC=C1)C=O.C1=CC=C(C=C1)C=O 10=20;22,23=23;20,21=21,22
[H:20][CH:21]([C:22](=[O:23])OC(=O)C)NC(=O)C1=CC=CC=C1.C(=O)([O-:10])O[K].COC1=C(C(=CC=C1)O)C=O.C(=O)(O)O[K].[K+]>>[H:20][O:10]C(=O)O[K].CC(=O)O[C:22](=[CH:21]NC(=O)C1=CC=CC=C1)[O-:23].COC1=C(C(=CC=C1)O)C=O.C(=O)(O)O[K].[K+] 10=20;22,23=23;20,21=21,22
